US05405851
To a stirred suspension of sodium borohydride (3.5 g, 93 mmoles) in dry methanol (50 ml) at 0° C. under a nitrogen atmosphere was added a solution of 4,4-dimethyl-1-tetralone (10 g, 57.4 mmoles) in dry methanol:toluene (1:3) dropwise over a 45 minute period. After this time the mixture was allowed to warm to room temperature, and then two volumes of water were added. After stirring for 1 hour, the organic layer was separated, dried over magnesium sulfate, filtered, and evaporated under reduced pressure to leave a light yellow oil. This was purified by silica gel column chromatrography eluting with ethyl acetate:hexane (1:9) to give 1,2,3,4-tetrahydro-4,4-dimethyl-1-naphthol as a colorless oil. (9.89 g, 98%).

reactant | sodium borohydride | 93 mmoles, 3.5 g | [BH4-].[Na+]
reactant | 4,4-dimethyl-1-tetralone | 57.4 mmoles, 10 g | CC1(CCC(C2=CC=CC=C12)=O)C | C12H14O
reactant | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol toluene | CO.C1(=CC=CC=C1)C
product | 1,2,3,4-tetrahydro-4,4-dimethyl-1-naphthol | CC1(CCC(C2=CC=CC=C12)O)C | C12H16O
